US05659065
g) 3-(S)-Benzyloxymethyl-6(S)-(tert-butoxycarbonyl)amino-8(S)-[4-methoxy-3-(3-methoxypropoxy)-benzyl]-2,9-dimethyl-decan-5(R,S)-ol
The reaction mixture is stirred for a further 20 minutes at 55° C. and then cooled to 5° C. A solution of 2(S)-(tert-butoxycarbonyl)amino-4(S)-[4-methoxy-3-(3-methoxypropoxy)-benzyl]-5-methyl-hexanal (190 g) in tetrahydrofuran (700 ml) is then added dropwise. The reaction mixture is stirred for a further 3 hours at room temperature, then at 5° C. saturated ammonium chloride solution is added and the mixture is extracted with diethyl ether. The organic phases are concentrated and purified by FC (4 kg of silica gel, ethyl acetate/hexane 1:3). The title compound is obtained in the form of a colourless oil (139 g): Rf (ethyl acetate/hexane 1:2)=0.26; HPLC Rt =22.7 and 22.8 min ((4:6)-diastereoisomeric mixture).

reactant | 2(S)-(tert-butoxycarbonyl)amino-4(S)-[4-methoxy-3-(3-methoxypropoxy)-benzyl]-5-methyl-hexanal | 190 g | C(C)(C)(C)OC(=O)N[C@H](C=O)C[C@@H](C(C)C)CC1=CC(=C(C=C1)OC)OCCCOC | C24H39NO6
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | tetrahydrofuran | 700 ml | O1CCCC1 | C4H8O
product | 3-(S)-Benzyloxymethyl-6(S)-(tert-butoxycarbonyl)amino-8(S)-[4-methoxy-3-(3-methoxypropoxy)-benzyl]-2,9-dimethyl-decan-5(R,S)-ol | C(C1=CC=CC=C1)OC[C@H](C(C)C)CC([C@H](C[C@@H](C(C)C)CC1=CC(=C(C=C1)OC)OCCCOC)NC(=O)OC(C)(C)C)O | C37H59NO7
